US05872137
A mixture of 4.0 g of (3-hydroxypropyl)triphenylphosphonium bromide and 20 ml of tetrahydrofuran was cooled to 0° C., to which 12.5 ml of 1.6M n-butyl lithium (as a hexane solution) was slowly added dropwise. The reaction mixture was stirred at 0° C. for 30 minutes, to which a mixture of 1.24 g of 3-fluorobenzaldehyde and 10 ml of tetrahydrofuran was slowly added dropwise at the same temperature, followed by further stirring at room temperature for 6 hours. The reaction mixture was poured into ice-water, acidified by the addition of 10% hydrochloric acid, and extracted twice with 50 ml of diethyl ether. The combined ether layer was washed with saturated saline solution, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.70 g of 4-(3-fluorophenyl)-3-buten-1-ol.

reactant | (3-hydroxypropyl)triphenylphosphonium bromide | 4.0 g | [Br-].OCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyl lithium | 1.6M, 12.5 ml | C(CCC)[Li]
reactant | 3-fluorobenzaldehyde | 1.24 g | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(3-fluorophenyl)-3-buten-1-ol | 0.70 g | FC=1C=C(C=CC1)C=CCCO | C10H11FO
